US05025025
A solution of 1.0 g (3.17 mmol) of 5-carbethoxy-5-[3-(tetrahydropyranyloxy)propyl]-valeramide in 5 mL tetrahydrofuran is added dropwise to a suspension of 0.481 g (12.68 mmol) lithium aluminum hydride in 20 mL dry tetrahydrofuran. The reaction is refluxed for 21/2 hours, cooled in an ice-bath and quenched by the addition of 0.5 mL water, 0.5 mL 15% sodium hydroxide followed by 1.5 mL water. The mixture is stirred for 15 minutes and filtered, washed and then subjected to evaporation to give 6-amino-2-[3-(tetrahydropyranyloxy)-propyl]hexan-1-ol.

reactant | 5-carbethoxy-5-[3-(tetrahydropyranyloxy)propyl]-valeramide | 3.17 mmol, 1.0 g | C(=O)(OCC)C(CCCC(=O)N)CCCOC1OCCCC1 | C16H29NO5
reactant | lithium aluminum hydride | 12.68 mmol, 0.481 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 6-amino-2-[3-(tetrahydropyranyloxy)-propyl]hexan-1-ol | NCCCCC(CO)CCCOC1OCCCC1 | C14H29NO3
